US05624950
To a solution of 3 g of (3aRS,7aRS)-7,7-dimethyl-4-perhydroisoindolone hydrochloride and 1.49 g of triethylamine in 80 cm3 of dry dichloromethane are added 3.56 g of di-tert-butyl dicarbonate, followed by 0.18 g of 4-dimethylaminopyridme. The reaction mixture is stirred at room temperature for 1 hour and then washed twice with 100 cm3 of aqueous citric acid solution, then with 100 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 100 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried overmagnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.04-0.06 mm, diameter 2.8 cm, height 15 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (75/25) and collecting 30 cm3 fractions. Fractions 4 to 9 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 3.07 g of (3aRS,7aRS)-7,7-dimethyl-2-t-butyloxycarbonyl-4-perhydroisoindolone are obtained, in the form of white crystals melting at 130° C.

reactant | (3aRS,7aRS)-7,7-dimethyl-4-perhydroisoindolone hydrochloride | 3 g | Cl.CC1(CCC(C2CNCC12)=O)C
reactant | triethylamine | 1.49 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 3.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 80 cm3 | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridme | 0.18 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (3aRS,7aRS)-7,7-dimethyl-2-t-butyloxycarbonyl-4-perhydroisoindolone | 3.07 g | CC1(CCC(C2CN(CC12)C(=O)OC(C)(C)C)=O)C | C15H25NO3
